US07816371B2
b. 3-(5-Amino-1-oxo-1H-isoquinolin-2-ylmethyl)-azetidine-1-carboxylic acid-tert-butyl ester
Into a round bottom flask was combined tert-butyl 3-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)azetidine-1-carboxylate (0.56 g, 0.0015 mol), palladium on C (0.16 g, 0.0015 mol) and methanol (50 mL, 1 mol). The reaction mixture was stirred under hydrogen balloon at room temperature overnight. The mixture was filtered over celite, MeOH was removed and purified by silica-gel column twice (DCM:MeOH and EtOAc:Hexane). A white solid was obtained (190 mg). MS m/z=330.0 (M+1).

reactant | tert-butyl 3-((5-nitro-1-oxoisoquinolin-2(1H)-yl)methyl)azetidine-1-carboxylate | 0.0015 mol, 0.56 g | [N+](=O)([O-])C1=C2C=CN(C(C2=CC=C1)=O)CC1CN(C1)C(=O)OC(C)(C)C | C18H21N3O5
reactant | methanol | 1 mol, 50 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | 3-(5-Amino-1-oxo-1H-isoquinolin-2-ylmethyl)-azetidine-1-carboxylic acid-tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)CN1C(C2=CC=CC(=C2C=C1)N)=O | C18H23N3O3
